US08461161B2
A solution of (S)-methyl 6-(1-(3-(3-methylbenzamido)phenyl)ethylamino)pyrazine-2-carboxylate (40 mg, 0.1 mmol) and aqueous ammonia (4 mL, 28%) in dioxane (2 mL) was heated at 130° C. in a sealed tube for 18 hours. After this time the mixture was allowed to cool to room temperature and was diluted with ethyl acetate (20 mL). The two phases were separated and the aqueous phase extracted with ethyl acetate (10 mL). The combined organic solutions were washed with brine (15 mL), dried (Na2SO4) and concentrated under reduced pressure to give (S)-6-(1-(3-(3-methylbenzamido)phenyl)ethylamino)pyrazine-2-carboxamide (37 mg, 98%) as a beige solid.

reactant | (S)-methyl 6-(1-(3-(3-methylbenzamido)phenyl)ethylamino)pyrazine-2-carboxylate | 0.1 mmol, 40 mg | CC=1C=C(C(=O)NC=2C=C(C=CC2)[C@H](C)NC2=CN=CC(=N2)C(=O)OC)C=CC1 | C22H22N4O3
reactant | ammonia | 4 mL | N | H3N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (S)-6-(1-(3-(3-methylbenzamido)phenyl)ethylamino)pyrazine-2-carboxamide | 37 mg, 98% | CC=1C=C(C(=O)NC=2C=C(C=CC2)[C@H](C)NC2=CN=CC(=N2)C(=O)N)C=CC1 | C21H21N5O2
